US07795444B2
Preparation of (2-methylthiazol-4-yl)methanesulfonyl chloride (27):
Sodium (2-methylthiazol-4-yl)methanesulfonate (357 mg, 1.66 mmol) is dissolved in phosphorous oxychloride (6 mL) and is treated with phosphorous pentachloride (345 mg, 1.66 mmol). The reaction mixture is stirred at 50° C. for 3 hours, then allowed to cool to room temperature. The solvent is removed under reduced pressure and the residue is re-dissolved in CH2Cl2 (40 mL) and is washed with sat. NaHCO3 and brine. The organic layer is dried over MgSO4, filtered, and the solvent removed in vacuo to afford 0.095 g of the desired product as a brown oil. LC/MS ESI+ 211 (M+1). Intermediates are obtained in sufficient purity to be carried forward according to Scheme IX without the need for further purification.

reactant | Sodium (2-methylthiazol-4-yl)methanesulfonate | 1.66 mmol, 357 mg | CC=1SC=C(N1)CS(=O)(=O)[O-].[Na+]
reactant | phosphorous pentachloride | 1.66 mmol, 345 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorous oxychloride | 6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (2-methylthiazol-4-yl)methanesulfonyl chloride | 0.095 g | CC=1SC=C(N1)CS(=O)(=O)Cl | C5H6ClNO2S2
